US08975254B2
b) (R)-3-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)butan-2-yl)-1H-pyrazole-5-carboxamide
The compound was prepared using the method of Example 34(d). The reaction was conducted in 4 ml of DCM at RT overnight using (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.249 g; 0.91 mmol), 3-acetyl-1H-pyrazole-5-carboxylic acid (0.140 g; 0.91 mmol), 0.24 ml of DIPEA, HOBt (0.184 g; 1.36 mmol) and EDCI (0.261 g; 1.36 mmol) as starting materials. Purification was done by EtOH trituration. 1H-NMR (400 MHz; d6-DMSO): δ 0.90 (t, 3H), 1.42-1.67 (m, 2H), 2.51 (s, 3H), 4.19-4.42 (m, 3H), 6.91 (d, 1H), 7.32 (s, 1H), 7.79 (d, 1H), 7.85-8.07 (m, 3H), 8.38 (d, 1H), 14.14 (s, 1H).

reactant | (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.91 mmol, 0.249 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)CC | C14H15ClN4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 0.91 mmol, 0.140 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | DIPEA | 0.24 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 1.36 mmol, 0.184 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.36 mmol, 0.261 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | (R)-3-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)butan-2-yl)-1H-pyrazole-5-carboxamide | C(C)(=O)C1=NNC(=C1)C(=O)N[C@@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)CC | C20H19ClN6O2
